US04032580
To a solution of 46.6 g of p-phenylacetophenone in 250 ml. of dimethyl sulfoxide, there is added 65.5 g of lithium acetylide - ethylene diamine complex. After 18 hours at room temperature, the mixture is poured on 2 liters of iced water. The initial oil solidifies on standing, is filtered off and recrystallized from 150 ml of isopropyl alcohol to give 2-(p-biphenylyl)-3-butyn-2-ol, mp 75°-80° C.

reactant | p-phenylacetophenone | 46.6 g | C1(=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C14H12O
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
reactant | water | 2 liters | O | H2O
product | 2-(p-biphenylyl)-3-butyn-2-ol | C1(=C(C=CC=C1)C(C)(C#C)O)C1=CC=CC=C1 | C16H14O
